US03932521
2-dodecanone is prepared from 1-dodecene according to the process of the present invention as follows: A catalyst solution is prepared by dissolving .04 moles of palladium chloride in a mixture of 137 grams of methanol, 252 grams of polypropylene glycol having an average molecular weight of 430, and 15 grams of water. The catalyst solution is then charged to a 2 liter titanium autoclave where the catalyst solution is heated to a temperature of 60°C; while being stirred at 1,000 r.p.m. with the reactor being pressurized to 100 p.s.i.g. with oxygen. Using a piston pump, 600 grams of 1-dodecene is introduced to the autoclave over a period of 21/2 hours. During this period of addition, the reaction temperature is maintained at 60°C by cooling, with the reaction pressure of 100 p.s.i.g. being maintained by repressuration with oxygen. Stirring is continued for about 1/2 hour after the addition of 1-dodecene is completed.

reactant | 1-dodecene | C=CCCCCCCCCCC | C12H24
reactant | water | 15 grams | O | H2O
reactant | oxygen | O=O | O2
reactant | 1-dodecene | 600 grams | C=CCCCCCCCCCC | C12H24
solvent | methanol | 137 grams | CO | CH4O
catalyst | palladium chloride | .04 moles | [Pd](Cl)Cl
catalyst | titanium | 2 liter | [Ti] | Ti
product | 2-dodecanone | CC(CCCCCCCCCC)=O | C12H24O
